US07199135B2
N-{3-[1-(3-{[2,2-BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Example 21 was prepared from bis(4-fluorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide according to the procedures described in Scheme 10: ESMS m/e: 520.3 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C17H27N3O
product | N-{3-[1-(3-{[2,2-BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)C1=CC=C(C=C1)F | C31H35F2N3O2
